US09212170B2
(1) 6-Chloro-N-[4-(trifluoromethyl)phenyl]nicotinamide
6-Chloronicotinoyl chloride (0.83 g) was dissolved in toluene (15 mL), and the solution was cooled to 0° C. 4-(Trifluoromethyl)aniline (1.6 g) was added thereto at 0° C., and the mixture was stirred at room temperature for 10 hours. Ethyl acetate was added thereto, and the organic layer was washed with a 1 N aqueous sodium hydroxide solution and water and dried over sodium sulfate. After concentration under reduced pressure, the obtained solid was collected by filtration and washed with diethyl ether. The solid was dried under reduced pressure to obtain the title compound (0.88 g) as a white solid (yield: 29%).

reactant | 6-Chloronicotinoyl chloride | 0.83 g | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 4-(Trifluoromethyl)aniline | 1.6 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-N-[4-(trifluoromethyl)phenyl]nicotinamide | 0.88 g, yield: 29% | ClC1=NC=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=C1 | C13H8ClF3N2O
